US09056843B2
O-toluidine (Fluka; 0.118 mL, 1.1 mmol) was added to a clear light yellow solution of 4-cyano-benzenesulfonyl chloride (ABCR GmbH & Co. KG; 202 mg, 1 mmol) in pyridine (5 mL). The resulting clear red-brown solution was then stirred at room temperature for 18 hrs. Subsequently the reaction mixture was diluted with water (50 mL) and ethyl acetate (50 mL). The liquid layers were separated and the aqueous fraction was re-extracted twice with ethyl acetate (25 mL). The combined organic layers were washed with 0.1 M hydrochloric acid and brine (50 mL each), dried with sodium sulfate, filtered and evaporated under reduced pressure. The residue was dried under high vacuum to give 4-cyano-N-o-tolyl-benzenesulfonamide (314 mg, 0.92 mmol, 92% yield) as pale brown oil.

reactant | 4-cyano-benzenesulfonyl chloride | 1 mmol, 202 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 50 mL | O | H2O
product | 4-cyano-N-o-tolyl-benzenesulfonamide | 0.92 mmol, 314 mg, 92% yield | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)C | C14H12N2O2S
